US05409928
Preparation of ethyl 4-benzylbenzoate
By using 4-benzylbenzoic acid (211.58 g), ethanol (1.8 l) and concentrated sulfuric acid (20 ml), there was prepared the title compound (232.55 g).

reactant | 4-benzylbenzoic acid | 211.58 g | C(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O2
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 1.8 l | C(C)O | C2H6O
product | ethyl 4-benzylbenzoate | 232.55 g | C(C1=CC=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C16H16O2
